US07563920B2
Synthesis of N-(2-Methoxyisobutyl)formamide (MIBF)
A suspension of MIBAHCl (220.00 g, 99.0% (GC), 1.56 mol) in methyl formate (767.32 g, 12.73 mol) was heated to reflux, and triethylamine (175.39 g, 1.73 mol) was added dropwise. The reaction mixture was heated to reflux. The reaction was monitored by TLC until disappearance of MIBAHCl. After 68 hours, the resulting white suspension was cooled to room temperature the solution was filtered and the residue rinsed with diethyl ether (2862 mL). The filtrate was concentrated by rotary evaporation under reduced pressure and the product, a yellow oil, was distilled under reduced pressure (1.5 mmHg). MIBF was yielded as a colorless liquid (201.34 g, 98% yield, 99.8% (GC), b.p.: 120.0-120.5° C./1.50 mmHg); TLC Rf 0.2 (4:1 ethyl acetate/hexanes, detection with p-anisaldehyde spray); FTIR(neat): v 3300, 3061, 2977, 2938, 2831, 2751, 1671, 1534, 1469, 1385, 1368, 1287, 1238, 1183, 1164, 1079, 1034, 1004, 957, 858, 721, 666 cm−1; 1H-NMR(600 MHz, CDCl3): δ 1.13 (s, 6H, 2 CH3), 3.16 (s, 3H, OCH3), 3.28 (d, J=5.9 Hz, 2H, CH2 ), 6.12 (br s, 1H, NH), 8.19 (s, 1H, CHO); 13C-NMR (151 MHz, CDCl3): δ 22.5 (2 CH3), 46.0 (CH2), 49.4 (OCH3), 74.1 (C), 161.4 (CHO); MS (EI): m/z=132[M+H]+; MS (CI): m/z=132[M+H]+.

reactant | methyl formate | 12.73 mol, 767.32 g | C(=O)OC | C2H4O2
reactant | triethylamine | 1.73 mol, 175.39 g | C(C)N(CC)CC | C6H15N
reactant | p-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
product | N-(2-Methoxyisobutyl)formamide | 98% yield | COC(CNC=O)(C)C | C6H13NO2
